Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Potassium
 
Attending: ___
 
Chief Complaint:
Shortness of Breath
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
Pt is a ___ y/o man with excellent mental status and a history 
CHF, aortic stenosis (0.8cm2 in ___, HTN, DM II, s/p recent 
endocarditis and recent CVA, CAD, distant 4 vessel CABG, and 
chronic renal failure presents with increasing SOB worse supine, 
hypertension to SBP to 200, and worsening renal function. He has 
been increasingly unwell since his wife died in ___. He has had 
several admissions since then for infective endocarditis 
(finished vancomycin ___ and CVA ___ ? of septic embolic, 
given endocarditis, but unclear). He recently developed a UTI 
and was started on cipro. His lasix was reduced recently to 
maintain BP for good CNS perfusion and renal failure. He became 
volume overloaded at the nursing facility and returned here 
today - ___.
.
On admission to the ED his BNP >7000) with tropinin 0.96 and 
possible deepening of TWI from prior ECGs. CKMB was NL. His CXR 
showed congestion with small effusions. He was given Lasix 20mg 
IV x2 and admitted on a nitro drip for HTN. He was afebrile and 
UA was NL. 
.
At this time he feels his respiratory status is improving. He is 
very alert and involved in his care. He denies chest pain, N/V, 
disphoresis and reports recently loose stool concerning for 
C.diff given current FQ treatment for UTI and the fact that he 
lives at a nursing home. 
.  
On review of systems, he denies any prior history of deep venous 
thrombosis, pulmonary embolism, bleeding at the time of surgery, 
myalgias, joint pains, cough, hemoptysis, black stools or red 
stools. He denies recent fevers, chills or rigors. He denies 
exertional buttock or calf pain. All of the other review of 
systems were negative. Cardiac review of systems is notable for 
absence of chest pain, ankle edema, palpitations, syncope or 
presyncope.  

 
Past Medical History:
1. Hypertension  
2. Hypercholesterolemia  
3. Diabetes type 2  
4. Severe Aortic stenosis  
4. Conduction system disease (1 AVB, RBBB)  
5. Bradycardia prohibiting Beta Blocker  
6. Right carotid stenosis (50% on ultrasound ___  
7. Colon cancer - s/p resection  
8. CAD s/p 4V CABG in ___  

 
Social History:
___
Family History:
Father w/ CAD and two prior MIs; mother with unknown "heart" 
condition  
 
Physical Exam:
VSS 97.6  148/56  72  18  98% on 3L  
Gen: WDWN elderly gentleman in NAD. Oriented x3. Mood, affect 
appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

Neck: Supple with no JVD.  
CV: PMI located in ___ intercostal space, midclavicular line. 
RR, normal S1, S2. III/VI SEM with no r/g. No thrills, lifts. No 
S3 or S4.  
Chest: mild kyphosis. Resp were unlabored but rapid, no 
accessory muscle use. Diffuse crackles R>L.  
Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by 
palpation. No abdominial bruits. No shifting dullness
Ext: No c/c/e. No femoral bruits. No edema
Skin: No stasis dermatitis, ulcers, scars, or xanthomas.  
.  
Pulses:  
Right: Carotid 2+ Femoral 2+ DP 2+ Radia 2+  
Left: Carotid 2+ Femoral 2+ DP 2+ Radia 2+  

 
Pertinent Results:
ADMISSION LABS:

___ 01:45AM BLOOD WBC-17.6*# RBC-3.90* Hgb-11.1* Hct-33.7* 
MCV-86 MCH-28.5 MCHC-33.0 RDW-15.5 Plt ___
___ 01:45AM BLOOD Neuts-89.8* Lymphs-5.8* Monos-2.8 Eos-1.2 
Baso-0.5
___ 01:45AM BLOOD ___ PTT-26.3 ___
___ 01:45AM BLOOD Glucose-160* UreaN-49* Creat-1.8* Na-140 
K-5.3* Cl-107 HCO3-22 AnGap-16
___ 01:45AM BLOOD CK(CPK)-91
___ 01:45AM BLOOD CK-MB-8 cTropnT-0.95* proBNP-GREATER TH
___ 01:00PM BLOOD Albumin-3.3* Calcium-8.7 Phos-4.5# Mg-1.9

PERTINENT LABS/STUDIES:

Cr:  1.8 (___) -> 1.4 (___)
WBC:  17.6 (___) -> 10.4 (___) -> 13.8 (___)
Trop: 0.95 (___) -> 0.96 (___) -> 0.84 (___)
CDiff:  Negative x2

EKG demonstrated NSR with RBBB, primary AV conduction delay and 
deepening of TWI compared with prior dated ___.  
.  
CXR (___): CHF with mild interstitial edema and bilateral 
effusions. Cannot exclude infectious process in the left lower 
lobe 
.  
TELEMETRY: ___:  O/N telemetry with Mobitz type 2 and a 
run of VT (15 beats). 12 lead pending for today

Hand Xray (___): Osteoarthritis. Possible soft tissue swelling. 
No acute 
fracture or bone destruction. 

DISCHARGE LABS:

___ 05:15AM BLOOD WBC-13.8* RBC-3.70* Hgb-10.7* Hct-32.0* 
MCV-86 MCH-28.9 MCHC-33.5 RDW-15.2 Plt ___
___ 05:15AM BLOOD Glucose-195* UreaN-44* Creat-1.4* Na-143 
K-3.6 Cl-106 HCO3-27 AnGap-14
___ 05:15AM BLOOD Calcium-8.2* Phos-3.3 Mg-1.8
 
Brief Hospital Course:
Pt is ___ y/o M with severe aotic stenosis, recent endocarditis, 
a CVA on ___, presented with acute on chronic diastolic 
heart failure. 
.
# Valves: Patient has severe Aortic stenosis, with a valve area 
of 0.8cm2 and regurigation of all valves. (per ECHO on ___. 
 Patient was evaluated for CT surgery during this admission, and 
surgery determined that he will likely not be a candidate for 
surgery given his recent CVA and overall poor prognosis for 
recovery.  He is not a candidate for valvuloplasty due to the 
recent endocarditis (small vegetation still seen after 6 weeks 
of antibiotic therapy on ___) and 2+ AR. His 
outpatient cardiologist Dr. ___ is interested in pursuing a 
transcutaneous valve replacement at ___, and he 
will be contacting Mr. ___ about this option in the near 
future. 
.
# Acute on chronic diastolic heart failure.  Patient has a 
history of diastolic heart failure.  His dose of Lasix had been 
decreased in light of his recent CVA, in order to increase 
cerebral perfusion.  A CXR on admission demonstrated pulmonary 
edema, and a BNP was >7000.  Per neurology, the patient's SBP no 
longer needs to be elevated, so he was started back on his home 
dose of Lasix on ___.  He was also continued on his 
lisinopril, and the dose was increased on ___.  Patient 
improved clinically and on physical exam, and by discharge, he 
was satting 95% on RA.  
.
# CAD: Patient has a h/o CABG.  Troponins were elevated on 
admission and reached a peak of 0.96.  It was decided that the 
patient would not undergo cardiac catheterization in light of 
his recent stroke but would rather be managed medically.  
Patient was continued on ASA, simvastatin, Plavix, and he was 
started on Metoprolol 12.5 mg BID. 
.
#. HTN:  Pt was admitted with SBP 190s.  He was started on a 
Nitro drip in the ED, which was discontinued on ___. Per 
neurology recommendations, patient's SBP should ideally be ~120. 
 Patient was started on Metoprolol, his lisinopril dose was 
increased, and he was restarted on Lasix on ___.  His blood 
pressure was monitored while in the hospital.
.
#. Bradycardic episodes:  Patient had episodes of bradycardia 
and nonsustained ventricular tachycardia. Pt has a known RBBB 
and primary AV conduction delay.  Patient was asymptommatic 
throughout these episodes.  He was monitored throughout his 
hospital stay and did not have any acute events.   
.
#. DM Type II:  Patient has a h/o DM2.  He is currently on 
glyburide at home.  He was maintained on an insulin sliding 
scale while in the hospital.  He is also currently on 
Ciprofloxacin (last dose ___, so he was instructed to 
restart his glyburide at home after he has finished his course 
of Cipro.  
 
#. Chronic renal insufficiency:  Patient's baseline Cr is 1.4, 
and his Cr on admission was 1.8.  Patient's Cr was followed each 
day, and it returned to his baseline of 1.4 with Lasix 20 mg PO 
each day.    
.
#. UTI:  patient has a history of a recent UTI.  He is currently 
on Cipro, and his last dose will be given on ___.  Patient's 
UCx was negative on this admission.
.  
# Right Hand Pain:  Patient stated that he has significant pain 
in his right hand,  He claims this began when he was doing ___ at 
___.  It is tender to palpation on the lateral aspect 
of his index finger, but it is not swollen, and not edematous.  
An Xray of his finger was performed, which demonstrated 
osteoarthritis but no fractures.  Patient received Tylenol for 
the pain during admission.  
 
Medications on Admission:
CURRENT MEDICATIONS:  
1. Ferrous Sulfate 300 mg/5 mL Liquid Sig: One (1)  PO three 
times a day.  
2. Docusate Sodium 50 mg/5 mL Liquid Sig: Two (2)  PO BID (2 
times a day).  
3. Psyllium     Packet Sig: ___ Packets PO BID (2 times a day) 
as needed.  
4. Lorazepam 1 mg Tablet Sig: One (1) Tablet PO HS (at bedtime) 
as needed.  
5. Trazodone 50 mg Tablet Sig: 0.5 Tablet PO HS (at bedtime) as 
needed.  
6. Simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
7. Magnesium Hydroxide 400 mg/5 mL Suspension Sig: Thirty (30) 
ML PO Q6H (every 6 hours) as needed.  
8. Glyburide 1.25 mg Tablet Sig: One (1) Tablet PO once a day.  
9. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO twice a day.  
10. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
11. insulin sliding scale
as per attached sheet
12. Finasteride 5 mg Tablet Sig: One (1) Tablet PO once a day.  
13. Lisinopril 10 mg Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Aortic Stenosis
Congestive Heart Failure (diastolic)
Osteoarthritis

Secondary:
Hypertension
Type 2 Diabetes
Coronary Artery Disease

 
Discharge Condition:
Good.  Patient's vital signs are stable, and he is satting well 
on room air.

 
Discharge Instructions:
You were admitted to the hospital because you were short of 
breath.  The dose of your diuretic had been decreased, and thus 
you accumulated some fluid in your lungs.  We increased the dose 
of your medication, which lessened the fluid in your lungs.  You 
also have a condition called Aortic Stenosis, which is currently 
being managed through medications.  During this hospital stay, 
you also experienced some right hand pain.  We did an xray of 
your hand, which showed some arthritis, but you do not appear to 
have a broken bone.  

We made a few changes to your medications while you were in the 
hosptial:
1.  You are back on Lasix 20 mg twice a day
2.  Your Lisinopril was increased to 20 mg once a day
3.  You were started on Metoprolol 12.5 mg twice a day
4.  You were started on Aspirin 325 mg each day
5.  We stopped your glyburide while you were on the antibiotic, 
Cipro.  You should start taking glyburide again on ___.

Please take all medications as prescribed.

Please keep all previosuly scheduled appointments.

Please return to the ED of your healthcare provider if you 
experience shortness of breath, fatigue, chest pain, fevers, or 
other concerning symptoms. 
 
Followup Instructions:
___